US05420151
(R)-3-(N-Isopropyl, N-n-propylamino)-5 -phenyl-chroman
(R)-3-(N-Isopropyl, N-n-propylamino)-5-trifluoromethanesulfonyloxychroman (1 g, 2.6 mmol) was dissolved in toluene (25 mL) under a nitrogen atmosphere. Ethanol (11.5 mL), LiCl (0.22 g, 5.2 mmol), Na2CO3 (2M, 3.8 mL), Pd(PPh3)4 (0.054 g, 0.047 mmol) and phenylboronic acid (0.38 g, 3.1 mmol) were added and the reaction mixture was stirred at 90° C. for 7 h. The solvent removed in vacuo until 15 mL was left. The residue was diluted with diethyl ether, washed with NH3 (2M) twice and dried (MgSO4). Removal of the solvent in vacuo gave a yellow-brownish oily residue which was purified by flash chromatography )SiO2, CH2Cl2) to give the title compound in 86% yield (0.7 g). α=-50.7° (MeOH, 0.1M, 22° C.). The HCl-salt was precipitated from ether by the slow addition of HCl in ether to an ice-cold solution of the base. The crude salt was recrystallized from EtOAc/diethyl ether to give 650 mg of needle-like crystals. Mp. 141°-142° C.

reactant | (R)-3-(N-Isopropyl, N-n-propylamino)-5-trifluoromethanesulfonyloxychroman | 2.6 mmol, 1 g | C(C)(C)N(CCC)[C@H]1COC2=CC=CC(=C2C1)OS(=O)(=O)C(F)(F)F | C16H22F3NO4S
reactant | LiCl | 5.2 mmol, 0.22 g | [Li+].[Cl-]
reactant | Na2CO3 | 2M, 3.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phenylboronic acid | 3.1 mmol, 0.38 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.047 mmol, 0.054 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Ethanol | 11.5 mL | C(C)O | C2H6O
product | (R)-3-(N-Isopropyl, N-n-propylamino)-5 -phenyl-chroman | 86% yield | C(C)(C)N(CCC)[C@H]1COC2=CC=CC(=C2C1)C1=CC=CC=C1 | C21H27NO
